US08497368B2
(E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-N-phenylhydrazinecarboxamide
The title compound was prepared from N-phenylhydrazine carboxamide and 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone in analogy to the synthesis of example 1 in 36% yield. 1H-NMR (400 MHz, DMSO-d6) δ ppm 10.13 (s, 1H), 9.06 (s, 1H), 8.86 (dd, 1H), 8.30 (t, 2H), 8.06 (d, 1H), 7.96 (d, 1H), 7.78 (d, 1H), 7.69 (s, 1H), 7.60 (d, 2H), 7.48 (q, 1H), 7.31 (t, 2H), 7.04 (t, 1H), 4.58 (s, 2H), 2.32 (s, 3H). LCMS (method C): [MH]+=454, tR=3.89 min.

reactant | N-phenylhydrazine carboxamide | C1(=CC=CC=C1)NC(=O)NN | C7H9N3O
reactant | 1-[3-(7-fluoro-quinolin-6-ylmethyl)-imidazo[1,2-b]pyridazin-6-yl]-ethanone | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)C(C)=O | C18H13FN4O
product | (E)-2-(1-(3-((7-Fluoroquinolin-6-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethylidene)-N-phenylhydrazinecarboxamide | 36% yield | FC1=C(C=C2C=CC=NC2=C1)CC1=CN=C2N1N=C(C=C2)\C(\C)=N\NC(=O)NC2=CC=CC=C2 | C25H20FN7O
